US05914332
E. N-Carbonylbenzyloxy-3-aminopropanal
335 mL of dimethylsulfoxide and 9 L of methylene chloride were combined and chilled to -48° C. 313 mL of oxalyl chloride was added over 25 minutes so that the temperature remained below -40° C. Cooled to -48° C., and added 500 grams of N-Cbz-3-amino-1-propanol dissolved in 1 L of methylene chloride so that the temperature remained below -40° C. Stirred for an additional hour at -45° C. 1325 mL of triethylamine was added at such a rate that the temperature remained below -40° C. After stirring an additional 15 minutes at -40° C., the mixture was allowed to warm to -30° C., then added 2.5 L of 20% aqueous potassium dihydrogen phosphate. Stirred for one hour, then separated the layers, washed the organic layer with brine, and dried with magnesium sulfate. The resulting aldehyde was kept in solution at -20° C. until needed.

reactant | dimethylsulfoxide | 335 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 313 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-Cbz-3-amino-1-propanol | 500 grams | C(=O)(OCC1=CC=CC=C1)NCCCO | C11H15NO3
reactant | potassium dihydrogen phosphate | 2.5 L | P(=O)(O)(O)[O-].[K+]
reactant | triethylamine | 1325 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 9 L | C(Cl)Cl | CH2Cl2
product | N-Carbonylbenzyloxy-3-aminopropanal | C(=O)=NCC(C=O)OCC1=CC=CC=C1 | C11H11NO3
